* source AFLEVERING2
V_V1         VDD 0 5Vdc
X_B0         N01103 N01120 N04477 $G_DPWR $G_DGND XOR
X_S1         N00961 N04873 N01527 $G_DPWR $G_DGND XOR
X_B1         N01403 N01416 N00961 $G_DPWR $G_DGND XOR
X_A0         N01103 N01120 N04340  $G_DPWR $G_DGND AND2
X_A1         N01403 N01416 N01071  $G_DPWR $G_DGND AND2
X_U6         N00961 N04873 N01067  $G_DPWR $G_DGND AND2
X_U7         N01067 N01071 N01508 $G_DPWR $G_DGND OR2
R_R1         0 N01544  300 TC=0,0 
C_C1         VDD 0  100n  TC=0,0 
C_C2         VDD 0  100n  TC=0,0 
C_C3         VDD 0  100n  TC=0,0 
X_U8         0 N04477 N04523 $G_DPWR $G_DGND XOR
X_U9         0 N04477 N04614  $G_DPWR $G_DGND AND2
X_U10         N04614 N04340 N04873 $G_DPWR $G_DGND OR2
R_R2         0 N01571  300 TC=0,0 
R_R3         0 N01585  300 TC=0,0 
V_V2         VDD N01416  
+PULSE 0 5 0 1p 1p 8m 16m
V_V3         VDD N01403  
+PULSE 0 5 0 1p 1p 2m 4m
V_V4         VDD N01120  
+PULSE 0 5 0 1p 1p 4m 8m
V_V5         VDD N01103  
+PULSE 0 5 0 1p 1p 1m 2m
D_S0         N04523 N01585 Dbreak 
D_d2         N01527 N01571 Dbreak 
D_Carry         N01508 N01544 Dbreak 
R_input1         0 N01416  110k TC=0,0 
R_input2         0 N01403  110k TC=0,0 
R_input3         0 N01120  110k TC=0,0 
R_input4         0 N01103  110k TC=0,0 
