* source AFLEVERING3
X_U8         J CLK K N01571 N16480 $G_DPWR 0 JKFF
X_U10         N11026 N11026 CLK N01571 0 0 0 0 0 N16484 Q1 Q2 Q3 Q4
+  $G_CD4000_VDD $G_CD4000_VSS CD4510B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_main_clk         STIM(1,1) $G_DPWR 0 CLK IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +1ms 0
+  +1ms 1
+ ENDREPEAT
U_init_clk         STIM(1,1) $G_DPWR 0 N11026 IO_STM IO_LEVEL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +2ms 0
+  +1000s 1
+ ENDREPEAT
X_U11         Q1 Q4 K  $G_DPWR 0 AND2
X_U12         Q3 K N20574  $G_DPWR 0 AND2
X_U14         Q2 N20574 J  $G_DPWR 0 AND2
